US05464830
(2-carboxyethyl)triphenylphosphonium chloride (28)
A mixture of 5.4 g (50 mmol) of 3-chloropropionic acid and 13.1 g (50 mmol) of triphenylphosphine were heated for 2 hours at 145° C. and 2 hours at 95° C. The product, a glassy solid, was dissolved in 200 mL of CHCl3, to which was added 100 mL of Et2O. The volume was reduced to 250 mL. 5 mL of acetone was added to the solution. After 2 hours, 10.98 g of a solid was collected and used immediately in the manner described in Example 29, below.

reactant | 3-chloropropionic acid | 50 mmol, 5.4 g | ClCCC(=O)O | C3H5ClO2
reactant | triphenylphosphine | 50 mmol, 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Et2O | 100 mL | CCOCC | C4H10O
reactant | acetone | 5 mL | CC(=O)C | C3H6O
solvent | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | (2-carboxyethyl)triphenylphosphonium chloride | [Cl-].C(=O)(O)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H19O2P.ClH/c22-21(23)16-17-24(18-10-4-1-5-11-18,19-12-6-2-7-13-19)20-14-8-3-9-15-20;/h1-15H,16-17H2;1H
